US04093812
Add (while stirring) 7.61 g of sodium acetate and 6.58 g of hydroxylamine hydrochloride to 25.0 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde in 75 ml of dimethylformamide, the temperature rising slightly. Stir for a further 45 minutes at from 30° to 35° C and for one hour at room temperature. Clafify with degased active charcoal and then pour the solution onto 1 kg of ice and water. Vacuum filter and wash with water to obtain 98% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehydeoxime [m.p. 199° to 201° C with decomposition (from toluene)].

reactant | sodium acetate | 7.61 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 6.58 g | Cl.NO
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | 25.0 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehydeoxime | 98% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=NO)C1=CC=CC=C1 | C14H10N4O4
